US08106221B2
Step 2. benzyl (5)-1-hydroxy-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate
To a solution of (5)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-1-ol (50 g, 312.5 mmol) and K2CO3 (129.375 g, 937.5 mmol) in dioxane (250 mL) and water (250 mL) at 0° C. was added CbzCl (106.6 g, 625 mmol) dropwise. The reaction mixture was stirred at room temperature until the staring material disappeared. The organic solvent was distilled and the residue was dissolved in AcOEt (200 mL). The organic phase was separated and the water was extracted with AcOEt (3×100 ml). The combined organic phase was washed with water (3×50 ml), dried over Na2SO4, and concentrated in vacuo to give the residue, which was purified by column to give the product (26 g). 1H NMR (CD3OD) 1.1-1.3 (m, 2H), 1.4-1.5 (m, 1H), 1.5-1.7 (m, 3H), 1.8-1.9 (m, 1H), 2.6-2.8 (m, 1H), 3.0-3.1 (t, 1H), 3.3-3.4 (m, 1H), 3.5-3.6 (m, 1H), 3.6-3.8 (m, 2H), 3.8-3.9 (m, 2H), 5.0-5.1 (s, 2H), 7.3-7.4 (m, 5H).

reactant | (5)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-1-ol | 312.5 mmol, 50 g | N[C@H](CO)C[C@@H]1COCCC1 | C8H17NO2
reactant | K2CO3 | 937.5 mmol, 129.375 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CbzCl | 625 mmol, 106.6 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | water | 250 mL | O | H2O
product | benzyl (5)-1-hydroxy-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 26 g | OC[C@H](C[C@@H]1COCCC1)NC(OCC1=CC=CC=C1)=O | C16H23NO4
